US04000148
A mixture containing 5.45 g. (0.05 mole) of o-aminophenol and 6.10 g. (0.05 mole) of p-hydroxybenzaldehyde in 75 ml. of nitrobenzene was heated to reflux for 5 hr. On cooling to 30° a dark solid appears which was filtered, washed with hot toluene, and air-dried. Recrystallization from ethanol gave a 73% yield of 4-(2-benzoxazolyl)phenol (mp 255°-258°).

reactant | o-aminophenol | 0.05 mole | NC1=C(C=CC=C1)O | C6H7NO
reactant | p-hydroxybenzaldehyde | 0.05 mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-(2-benzoxazolyl)phenol | 73% yield | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)O | C13H9NO2
